US05663053
1-(7-carboxyheptyl)-2 octylthio-4,5-diphenyl-imidazole
1-(7-Ethoxycarbonylheptyl)-2-octylthio-4,5-diphenylimidazole (1 g) was reacted with 2N sodium hydroxide in a method similar to Example 10 to give, after chromatography on silica gel eluted with a dichloro-methane:methanol gradient, 1-(7-carboxyheptyl)-2 octylthio-4,5-diphenyl-imidazole (0.47 g, 49%) as an oil. Found: C, 73.56; H, 8.59; N, 5.60; S, 6.47%; C31H42N2O2S requires: C, 73.47; H, 8.35; N, 5.53; S, 6.33%.

reactant | 1-(7-Ethoxycarbonylheptyl)-2-octylthio-4,5-diphenylimidazole | 1 g | C(C)OC(=O)CCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SCCCCCCCC | C33H46N2O2S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 1-(7-carboxyheptyl)-2 octylthio-4,5-diphenyl-imidazole | C(=O)(O)CCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SCCCCCCCC | C31H42N2O2S
